US06150351
To a solution of 7β-[2-(2-thienyl)acetamido]-3-[4-(2-carboxyethyl)thiazol-2-yl]thio-3-cephem-4-carboxylic acid (100 mg) in water (50 ml) was added 0.1 mol/l-sodium hydroxide solution (3.9 ml). The solution was lyophilized to give disodium 7β-[2-(2-thienyl)acetamido]-3-[4-(2-carboxyethyl)thiazol-2-yl]thio-3-cephem-4-carboxylate (108.3 mg).

reactant | 7β-[2-(2-thienyl)acetamido]-3-[4-(2-carboxyethyl)thiazol-2-yl]thio-3-cephem-4-carboxylic acid | 100 mg | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CCC(=O)O)C(=S)O)C1=O | C19H17N3O5S4
reactant | sodium hydroxide | 3.9 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | disodium 7β-[2-(2-thienyl)acetamido]-3-[4-(2-carboxyethyl)thiazol-2-yl]thio-3-cephem-4-carboxylate | 108.3 mg | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CCC(=O)O)C(=S)[O-])C1=O.[Na+].[Na+].S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)CCC(=O)O)C(=S)[O-])C1=O | InChI=1S/2C19H17N3O5S4.2Na/c2*23-12(6-10-2-1-5-29-10)21-14-17(26)22-15(19(27)28)11(8-31-18(14)22)16-20-9(7-30-16)3-4-13(24)25;;/h2*1-2,5,7,14,18H,3-4,6,8H2,(H,21,23)(H,24,25)(H,27,28);;/q;;2*+1/p-2/t2*14-,18-;;/m11../s1
